US05712267
54(a)(i') 4-Nitrobenzyl (1R,5S,6S)-2-[(2S,4S)-2-[4-(2-hydroxyethyl)-1-piperazinylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate
1.82 ml of diphenylphosphoryl chloride and 1.54 ml of diisopropylethylamine were added dropwise, whilst ice-cooling, to a solution of 3.0 g of 4-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate in 38 ml of dry acetonitrile, and the resulting mixture was stirred at the same temperature for 1 hour. 1.54 ml of diisopropylethylamine and a solution of 3.63 g of (2S,4S)-2-[4-(2-hydroxyethyl)-1-piperazinylcarbonyl]-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (prepared as described in Preparation 54) in 30 ml of dry acetonitrile were then simultaneously added dropwise to the mixture, whilst ice-cooling, and the resulting mixture was stirred at the same temperature for 3 hours, after which it was allowed to stand overnight in a refrigerator. At the end of this time, the reaction mixture was worked up in a similar manner to that described in Example 49(b). The crude product was then purified by column chromatography through silica gel, using a 2:1 by volume mixture of ethyl acetate and methanol as the eluent, to give 3.4 g of the title compound, as a powder. The infrared absorption spectrum and nuclear magnetic resonance spectrum of the product were identical with those of the compound prepared as described in step 54(i), above.

reactant | diphenylphosphoryl chloride | 1.82 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | diisopropylethylamine | 1.54 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 3.0 g | O[C@H](C)[C@@H]1[C@@H]2N(C(C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H18N2O7
reactant | diisopropylethylamine | 1.54 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2S,4S)-2-[4-(2-hydroxyethyl)-1-piperazinylcarbonyl]-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 3.63 g | OCCN1CCN(CC1)C(=O)[C@H]1N(C[C@H](C1)S)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C19H26N4O6S
solvent | acetonitrile | 38 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 4-Nitrobenzyl (1R,5S,6S)-2-[(2S,4S)-2-[4-(2-hydroxyethyl)-1-piperazinylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 3.4 g | OCCN1CCN(CC1)C(=O)[C@H]1N(C[C@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-] | C36H42N6O12S
